US09403807B2
Step A: 2-(4-((tert-butoxycarbonyl)amino)-1H-indazol-1-yl)-2-(4-chlorophenyl)butanoic acid
Methyl 2-(4-((tert-butoxycarbonyl)amino)-1H-indazol-1-yl)-2-(4-chlorophenyl)butanoate (0.5 g, 1.13 mmol) (enantiomer A intermediate), as described in example 18 step D, as described in Example 18 step D, was dissolved in a mixture of 1,4-dioxane (1.0 mL) and water (0.25 mL) followed by addition of LiOH (0.27 g, 11.26 mmol). The mixture was stirred at 70° C. for 5 hours, then concentrated to remove solvent. The residue was dissolved in water (20 mL) and acidified with 1 N aq. HCl solution (11.3 mL) to give white precipitate. The solid was filtered, washed with water, and dried under vacuum to give title compound. LC/MS m/z=430.1[M+H]+.

reactant | Methyl 2-(4-((tert-butoxycarbonyl)amino)-1H-indazol-1-yl)-2-(4-chlorophenyl)butanoate | 1.13 mmol, 0.5 g | C(C)(C)(C)OC(=O)NC1=C2C=NN(C2=CC=C1)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C23H26ClN3O4
reactant | LiOH | 11.26 mmol, 0.27 g | [Li+].[OH-]
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.25 mL | O | H2O
product | 2-(4-((tert-butoxycarbonyl)amino)-1H-indazol-1-yl)-2-(4-chlorophenyl)butanoic acid | C(C)(C)(C)OC(=O)NC1=C2C=NN(C2=CC=C1)C(C(=O)O)(CC)C1=CC=C(C=C1)Cl | C22H24ClN3O4
